US09428508B2
To a solution of benzene-1,2-diamine (100 g, 0.93 mol) in dichloromethane (1 L) at 0° C. was added acetic anhydride (87 mL, 0.92 mol). After stirring at 0° C. for 2 hours, the mixture was stand at 0° C. for 12 hours and the precipitate was collected by filtration, washed by dichloromethane and ether, dried in air to afford the product N-(2-aminophenyl)acetamide (25 g, yield 18%). 1H NMR (400 MHz, CDCl3) δ ppm 7.14-7.26 (m, 2H), 7.04-7.08 (m, 1H), 6.78-6.81 (m, 2H), 3.86 (br s, 2H), 2.20 (s, 3H).

reactant | benzene-1,2-diamine | 0.93 mol, 100 g | C=1(C(=CC=CC1)N)N | C6H8N2
reactant | acetic anhydride | 0.92 mol, 87 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 1 L | ClCCl | CH2Cl2
product | N-(2-aminophenyl)acetamide | 25 g, yield 18% | NC1=C(C=CC=C1)NC(C)=O | C8H10N2O
